US03974278
A solution of 9.2 g of 4-methylsulphonylbenzaldehyde, 8 g of γ-methoxyacetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 40 ml of ethanol is heated to the boil and, after cooling, 2-methoxymethyl-6-methyl-4-(4'-methylsulphonylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in the form of yellow crystals of melting point 156°-158°C.

reactant | 4-methylsulphonylbenzaldehyde | 9.2 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | γ-methoxyacetoacetic acid ethyl ester | 8 g | C(C)OC(CC(=O)COC)=O | C7H12O4
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-methoxymethyl-6-methyl-4-(4'-methylsulphonylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 65% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OCC)C)COC | C21H27NO7S
